US07220734B2
Step A: 5-Hydroxy-6-methyl-1-indanone
To a stirred suspension of aluminum chloride (3.0 g, 22.2 mmol) and o-cresol (2.0 g, 18.5 mmol) in methylene chloride (10 mL) was added 4-chloropropionyl chloride (2.0 mL, 20.4 mmol). After stirring overnight at rt, the reaction was quenched by the addition of methanol followed by 2N hydrochloric acid. The product was extracted in methylene chloride (3×30 mL), dried over magnesium sulfate and concentrated in vacuo to give a colorless oil. This oil was treated with concentrated sulfuric acid (10 mL) at 90° C. for 1 h, diluted with water (50 mL) and the product extracted into methylene chloride (3×30 mL). The combined organics were dried over magnesium sulfate and concentrated in vacuo. Silica gel chromatography eluting with 33% ethyl acetate/hexanes gave 0.47 g of the title compound: 1H NMR (500 MHz, CDCl3): δ 7.56 (s, 1H), 6.81 (s, 1H), 5.36 (s, 1H, OH), 3.04 (t, J=5.9 Hz, 2H), 2.65 (t, J=5.8 Hz, 2H), 2.28 (s, 3H)

reactant | aluminum chloride | 22.2 mmol, 3.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | o-cresol | 18.5 mmol, 2.0 g | C1(=CC=CC=C1O)C | C7H8O
reactant | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | 5-Hydroxy-6-methyl-1-indanone | 0.47 g | OC=1C=C2CCC(C2=CC1C)=O | C10H10O2
